US09422244B2
0.75 g (1 mol equiv.) N-Ethyl-4,4-dimethyl-4,5-dihydro-pyrazole-1-carboximidothioic acid methyl ester and 0.94 g (1.05 mol equiv.) 3-chloro-4-methoxy-benzenesulfonamide were added to 10 mL acetonitrile. The reaction mixture was refluxed overnight and volatiles were removed in vacuo. The residue was taken up in ethyl acetate and extracted with 2N NaOH. The organic layer was dried over Na2SO4, filtered and evaporated to dryness. Purification by flash chromatography on silica gel (Et2O) afforded 1.43 g (97%) 3-chloro-N-[(4,4-dimethyl-4,5-dihydro-pyrazol-1-yl)-ethylamino-methylene]-4-methoxy-benzenesulfonamide. 1H NMR (400 MHz, CDCl3) δ 1.17 (t, J=7.3 Hz, 3H), 1.22 (s, 6H), 3.43-3.52 (m, 2H), 3.77 (br.s., 2H), 3.95 (s, 3H), 6.75 (s, 1H), 6.96 (d, J=8.6 Hz, 1H), 6.70-6.90 (br.s., 1H) 7.82 (dd, J=8.6, 2.3 Hz, 1H), 7.95 (d, J=2.3 Hz, 1H).

reactant | N-Ethyl-4,4-dimethyl-4,5-dihydro-pyrazole-1-carboximidothioic acid methyl ester | 1 mol, 0.75 g | CSC(=NCC)N1N=CC(C1)(C)C | C9H17N3S
reactant | 3-chloro-4-methoxy-benzenesulfonamide | 1.05 mol, 0.94 g | ClC=1C=C(C=CC1OC)S(=O)(=O)N | C7H8ClNO3S
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 3-chloro-N-[(4,4-dimethyl-4,5-dihydro-pyrazol-1-yl)-ethylamino-methylene]-4-methoxy-benzenesulfonamide | 1.43 g, 97% | ClC=1C=C(C=CC1OC)S(=O)(=O)N=C(NCC)N1N=CC(C1)(C)C | C15H21ClN4O3S
